US06177440B1
A 1,2,3,4-tetrahydrocarbazole-4-carboxamide or 4-carboxhydrazide (13) is dehydrogenated by refluxing in a solvent such as carbitol in the presence of Pd/C to produce the carbazole-4-carboxamide. Alternately, treatment of (13) with DDQ in an appropriate solvent such as dioxane yields carbozole (14).

reactant | 1,2,3,4-tetrahydrocarbazole-4-carboxamide | C1CCC(C=2C3=CC=CC=C3NC12)C(=O)N | C13H14N2O
reactant | carbitol | CCOCCOCCO | C6H14O3
catalyst | Pd/C | [Pd] | Pd
product | carbazole-4-carboxamide | C1=CC=C(C=2C3=CC=CC=C3NC12)C(=O)N | C13H10N2O
